US04863948
(B) N-(4-Aminophenethyl)-N-methyl-2-(2H-phthalazin-1-on-2-yl)ethylamine
Stannous chloride dihydrate (13.05 g) was dissolved in concentrated hydrochloric acid and stirred at 55° C. N-Methyl-N-(4-nitrophenethyl)-2-(2H-phthalazin-1-on-2-yl)ethylamine hydrochloride (7.5 g) was added portionwise over 1 hour and the solution was then heated a further 4 hours at 100° C. The partly cooled solution was poured onto crushed ice containing 500 ml of a 20% aqueous solution of sodium hydroxide and then extracted three times with methylene chloride. The resultant organic extracts were combined, dried (MgSO4), filtered and evaporated to give a pale yellow oil (6.0 g). Chromatography of the oil on silica [Merck "Kieselgel 60" (Trade Mark)] eluting with methylene chloride gave, after collection and evaporation of appropriate fractions, the title compound as a pale yellow oil (3.5 g) which was used in part (C) without further purification.

reactant | N-Methyl-N-(4-nitrophenethyl)-2-(2H-phthalazin-1-on-2-yl)ethylamine hydrochloride | 7.5 g | Cl.CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCN1C(C2=CC=CC=C2C=N1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | N-(4-Aminophenethyl)-N-methyl-2-(2H-phthalazin-1-on-2-yl)ethylamine | 6.0 g | NC1=CC=C(CCN(C)CCN2C(C3=CC=CC=C3C=N2)=O)C=C1 | C19H22N4O
